delta_loaded_network - fault test
Vin A 0 DC 12
Ra A B 29.661177
Rb B C 29.918748
Rc C A 2.052355
Rload B 0 30.387416
.op
.control
run
print v(A) v(B) v(C)
print @ra[i] @rb[i] @rc[i] @rload[i]
.endc
.end
